US04981849
A 60% dispersion of sodium hydride in mineral oil (40 g, 1 mol) was washed with dry petroleum ether and suspended in dry toluene (700 ml). The suspension was stirred under argon and carefully treated with a solution of 4-chlorophenol (128.6 g, 1 mol) in dry toluene (300 ml) added dropwise. The resulting suspension was stirred for 1 hour, warmed to 80° C. and treated with ethyl 2-chloroacetoacetate (165 g, 1 mol) added dropwise to maintain the internal temperature between 80°-85° C. The resulting solution was stirred at 80° C. for 4 hours, cooled and carefully treated with ice. The organic phase was washed with water (3×200 ml), 10% sodium hydroxide (2×75 ml), 75 ml), water (20 ml) and brine (100 ml), dried with magnesium sulfate, filtered and concentrated. The resulting oil was distilled in vacuo [bp 126°-132° C. (0.1 mm)]to give 95 g (37%) of ethyl 2-(4-chlorophenoxy)-acetoacetate.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorophenol | 1 mol, 128.6 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | ethyl 2-chloroacetoacetate | 1 mol, 165 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-chlorophenoxy)-acetoacetate | 95 g, 37% | ClC1=CC=C(OC(C(=O)OCC)C(=O)C)C=C1 | C12H13ClO4
